US08193378B2
To a solution of 1-[(7-{[2,4-bis(trifluoromethyl)benzyl]oxy}-5-fluoro-2H-chromen-3-yl)methyl]pyrrolidine-3-carboxylic acid (98 mg) in DMF (2 mL) was added CDI (46 mg), followed by stirring at 70° C. for 12 hours. To the reaction liquid were added methanesulfonamide (27 mg) and DBU (43 mg) in this order, followed by stirring for 12 hours. To the reaction liquid was added AcOH, followed by concentration under reduced pressure, and the residue was purified by reverse phase column chromatography (H2O:MeCN=100:0 to 90:10) to obtain a yellow amorphous substance (70 mg). This yellow amorphous substance was dissolved in dioxane (1 mL), and a 4 M HCl/dioxane solution (1 mL) was added thereto, followed by stirring and then concentrating under reduced pressure. The residue was washed with hexane to obtain 1-[(7-{[2,4-bis(trifluoromethyl)benzyl]oxy}-5-fluoro-2H-chromen-3-yl)methyl]-N-(methylsulfonyl)pyrrolidine-3-carboxamide hydrochloride (60 mg) as a pale yellow solid.

reactant | 1-[(7-{[2,4-bis(trifluoromethyl)benzyl]oxy}-5-fluoro-2H-chromen-3-yl)methyl]pyrrolidine-3-carboxylic acid | 98 mg | FC(C1=C(COC2=CC(=C3C=C(COC3=C2)CN2CC(CC2)C(=O)O)F)C=CC(=C1)C(F)(F)F)(F)F | C24H20F7NO4
reactant | CDI | 46 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | methanesulfonamide | 27 mg | CS(=O)(=O)N | CH5NO2S
reactant | DBU | 43 mg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | HCl dioxane | 4 M, 1 mL | Cl.O1CCOCC1
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | AcOH | CC(=O)O | C2H4O2
product | 1-[(7-{[2,4-bis(trifluoromethyl)benzyl]oxy}-5-fluoro-2H-chromen-3-yl)methyl]-N-(methylsulfonyl)pyrrolidine-3-carboxamide hydrochloride | 60 mg | Cl.FC(C1=C(COC2=CC(=C3C=C(COC3=C2)CN2CC(CC2)C(=O)NS(=O)(=O)C)F)C=CC(=C1)C(F)(F)F)(F)F | InChI=1S/C25H23F7N2O5S.ClH/c1-40(36,37)33-23(35)15-4-5-34(11-15)10-14-6-19-21(26)8-18(9-22(19)39-12-14)38-13-16-2-3-17(24(27,28)29)7-20(16)25(30,31)32;/h2-3,6-9,15H,4-5,10-13H2,1H3,(H,33,35);1H
